US08071607B2
Compound 11B. 1-(3-Amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine
Title compound 10B, 1-(3-nitro-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (1.0 g, 3.9 mmol) was added to 10% w/w palladium on carbon (0.1 g, 10% w/w) suspended in ethanol (300 ml). This was stirred for 42 hours at room temperature under an atmosphere of hydrogen. The reaction mixture was filtered to remove the palladium residues and the filtrate was concentrated to dryness in vacuo. The resultant residue was purified by column chromatography using DCM/MeOH (96:4) as eluent to yield the title compound as an off-white solid. (0.63 g, 2.8 mmol, 71%). LCMS: [M+H]+=227, Rt=0.71 min, 100% purity.

reactant | 1-(3-nitro-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 3.9 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C11H8N6O2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(3-Amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | NC=1C=C(C=CC1)N1N=CC=2C1=NC=NC2N | C11H10N6
